US07309701B2
0.733 g of 1-hydroxybenzotriazole, 0.833 g of β-alanine ethyl ester hydrochloride, 0.96 cm3 of N,N-diisopropylethylamine and 2.06 g of O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate were successively added to 0.94 g of 3-oxo-6-pyridin-4-yl-2,3-dihydropyridazine-4-carboxylic acid dissolved in 100 cm3 of N,N-dimethylformamide. The reaction medium was stirred for 12 hours at 19° C. The solvent was evaporated off under reduced pressure (2 kPa; 55° C.). The solid residue was triturated in 20 cm3 of dichloromethane, suction-filtered and oven-dried under reduced pressure (10 kPa; 20° C.). After purification by chromatography on silica gel (particle size 40-63 μm, under an argon pressure of 150 kPa) eluting with dichloromethane, 0.45 g of ethyl 3-[(3-oxo-6-pyridin-4-yl-2,3-dihydropyridazine-4-carbonyl)amino]propionate was obtained in the form of a white solid melting at 180° C.

reactant | 1-hydroxybenzotriazole | 0.733 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | β-alanine ethyl ester hydrochloride | 0.833 g | Cl.C(C)OC(CCN)=O
reactant | N,N-diisopropylethylamine | 0.96 cm3 | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 2.06 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 3-oxo-6-pyridin-4-yl-2,3-dihydropyridazine-4-carboxylic acid | 0.94 g | O=C1NN=C(C=C1C(=O)O)C1=CC=NC=C1 | C10H7N3O3
solvent | N,N-dimethylformamide | 100 cm3 | CN(C=O)C | C3H7NO
product | ethyl 3-[(3-oxo-6-pyridin-4-yl-2,3-dihydropyridazine-4-carbonyl)amino]propionate | 0.45 g | O=C1NN=C(C=C1C(=O)NCCC(=O)OCC)C1=CC=NC=C1 | C15H16N4O4
